US07919508B2
Scheme B, Step B3 N-{3-[4-((1R,3S)-1-Aminomethyl-5-hydroxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methyl-propyl}-4-chloro-benzamide dihydrochloride
Cool a solution of N-{3-[4-((1R,3S)-1-aminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methyl-propyl}-4-chloro-benzamide in anhydrous dichloromethane (4 mL) to −20° C., and add 6 equivalents of BCl3 (using 1M BCl3 in dichloromethane) slowly into the solution. Following complete addition, stir the reaction mixture at −20° C. for 2 hours and 0° C. for 1 hour. Cool again to −20° C. and quench with anhydrous CH3OH (0.5 mL). Allow the resulting solution to warm to room temperature and concentrate. Purify the crude product on a 2 g SCX column and then by chromatography on a 1 g silica gel column (eluted by 7N NH3 in methanol:ethyl acetate=1:10). Collect the appropriate fractions, concentrate and convert to the title compound with 2M HCl in diethyl ether. CIMS 486.2, tR (min)=2.30.

reactant | N-{3-[4-((1R,3S)-1-aminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methyl-propyl}-4-chloro-benzamide | NC[C@@H]1O[C@@H](CC2=C(C(=CC=C12)C)OC)C1CCN(CC1)CCC(C)NC(C1=CC=C(C=C1)Cl)=O | C28H38ClN3O3
reactant | BCl3 | 1M, 6 equivalents | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-{3-[4-((1R,3S)-1-Aminomethyl-5-hydroxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methyl-propyl}-4-chloro-benzamide dihydrochloride | Cl.Cl.NC[C@@H]1O[C@@H](CC2=C(C(=CC=C12)C)O)C1CCN(CC1)CCC(C)NC(C1=CC=C(C=C1)Cl)=O | InChI=1S/C27H36ClN3O3.2ClH/c1-17-3-8-22-23(26(17)32)15-24(34-25(22)16-29)19-10-13-31(14-11-19)12-9-18(2)30-27(33)20-4-6-21(28)7-5-20;;/h3-8,18-19,24-25,32H,9-16,29H2,1-2H3,(H,30,33);2*1H/t18?,24-,25-;;/m0../s1
